US04074046
An autoclave is charged with 18.1 g. o-nitrophenyl acetate, 2.50 g. 5% palladium-on-carbon, 0.50 g. ferric chloride 25 ml. acetic anhydride and 75 ml. acetic acid, purged with nitrogen, pressurized to 5,000 psig. with carbon monoxide, and heated at 190° C. for 5 hours. Analysis of the reaction mixture by vapor phase chromatography indicates complete conversion of the o-nitrophenyl acetate to 2-methylbenzoxazole. The catalyst is separated by filtration and washed with acetone. The solvents are evaporated and the residual oil is dissolved in ether and the solution is washed with aqueous sodium bicarbonate and water. After evaporation of the ether, the crude product is distilled to obtain 2-methylbenzoxazole, b.p.30 mm. 102°-110° C. The product is identical with an authentic sample of 2-methylbenzoxazole by vapor phase chromatography and infrared spectrum.

reactant | o-nitrophenyl acetate | CC(=O)OC=1C=CC=CC1[N+](=O)[O-] | C8H7NO4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium-on-carbon | [Pd] | Pd
product | 2-methylbenzoxazole | CC=1OC2=C(N1)C=CC=C2 | C8H7NO
